US08557982B2
(ii) 1-Benzyl-4-ethynyl-1H-pyrazole
This compound was prepared from 1-benzyl-4-iodo-1H-pyrazole using a similar procedure to that employed in the preparation of 4-ethynyl-1-(4-methoxy-benzyl)-1H-pyrazole (see a)(ii) above). The reaction time was extended to 5 h and 1.6 equivalents of trimethylsilylacetylene were added. Silica-gel flash chromatography of the crude reaction mixture afforded the product as a white solid (83% yield over two steps).

reactant | 1-benzyl-4-iodo-1H-pyrazole | C(C1=CC=CC=C1)N1N=CC(=C1)I | C10H9IN2
reactant | 4-ethynyl-1-(4-methoxy-benzyl)-1H-pyrazole | C(#C)C=1C=NN(C1)CC1=CC=C(C=C1)OC | C13H12N2O
reactant | trimethylsilylacetylene | 1.6 equivalents | C[Si](C)(C)C#C | C5H10Si
product | 1-Benzyl-4-ethynyl-1H-pyrazole | 83% yield | C(C1=CC=CC=C1)N1N=CC(=C1)C#C | C12H10N2
